US07820699B2
22.6 Using general procedure A with DMF as solvent 5-chloro-thiophene-2-carboxylic acid ((3S,4S)-4-hydroxy-pyrrolidin-3-yl)-amide hydrochloride was reacted with 2-bromo-[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenyl]-acetamide to give 5-chloro-thiophene-2-carboxylic acid ((3S,4S)-1-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-methyl}-4-hydroxy-pyrrolidin-3-yl)-amide. Light-yellow solid. MS 491.3 ([M+H]+)

reactant | 5-chloro-thiophene-2-carboxylic acid ((3S,4S)-4-hydroxy-pyrrolidin-3-yl)-amide hydrochloride | Cl.O[C@@H]1[C@H](CNC1)NC(=O)C=1SC(=CC1)Cl
reactant | 2-bromo-[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenyl]-acetamide | BrC(C(=O)N)C1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C13H10BrFN2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-chloro-thiophene-2-carboxylic acid ((3S,4S)-1-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-methyl}-4-hydroxy-pyrrolidin-3-yl)-amide | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)CN1C[C@@H]([C@H](C1)O)NC(=O)C=1SC(=CC1)Cl | C22H20ClFN4O4S
